US04328234
A mixture of 1-(bicyclo[2.2.1]hept-5-en-2-ylmethyl)imidazole (2.0 g, 11.48 mmol) and palladium on charcoal (0.2 g, 10%) in dry ethanol was shaken in an atmosphere of hydrogen for 4.5 h. The reaction mixture was then filtered through Hyflo-Supercel, and the filtrate was concentrated under reduced pressure to afford a colourless oil. Distillation of the oil afforded 1-(bicyclo[2.2.1]heptan-2-ylmethyl)imidazole as a colourless oil, b.p. 82°-84°/0.15 mm Hg.

reactant | 1-(bicyclo[2.2.1]hept-5-en-2-ylmethyl)imidazole | 11.48 mmol, 2.0 g | C12C(CC(C=C1)C2)CN2C=NC=C2 | C11H14N2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.2 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 1-(bicyclo[2.2.1]heptan-2-ylmethyl)imidazole | C12C(CC(CC1)C2)CN2C=NC=C2 | C11H16N2
